US07241745B2
N-{4-[1-(6,11-dihydro-dibenzo [b,e]thiepin-11-yl)-piperidin-4-yl]-butyl}-3-(pyridin-3-yl)-acrylamide (substance 136)
7.02 g (21.5 mmol) N-[4-(piperidin-4-yl)-butyl]-3-(pyridin-3-yl)-acrylamide dihydrochloride (substance 14 as a dihydrochloride) are suspended in 100 ml abs. dichlormethane and added to 7.08 g (70.0 mmol) TEA. The mixture is cooled to ca 0° C. under moisture exclusion and a solution of 5.30 g (21.5 mmol) 11-chlor-6,11-dihydro-dibenzo[b,e]thiepine in 10 ml abs. dichlormethane is added dropwise. The mixture is stirred for 24 hours at RT without further cooling. Subsequently, the batch is washed with 50 ml 10% sodium hydroxide solution and 30 ml water. The organic phase is dried over sodium sulfate and the solvent is removed under vacuum. The red brown residue is chromatographically purified three times over silica gel with CHCl3/CH3OH (100/0, 97/3 and 96/4 to 94/6). Subsequently, a further purification occurs by means of MPLC with CHCl3CH3OH (98/2). Yield: 0.5 g (5%) of a brittle, vitreous solid with a MP of 89–91° C.

reactant | N-[4-(piperidin-4-yl)-butyl]-3-(pyridin-3-yl)-acrylamide dihydrochloride | 21.5 mmol, 7.02 g | Cl.Cl.N1CCC(CC1)CCCCNC(C=CC=1C=NC=CC1)=O
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | 11-chlor-6,11-dihydro-dibenzo[b,e]thiepine | 21.5 mmol, 5.30 g | ClC1C2=C(SCC3=C1C=CC=C3)C=CC=C2 | C14H11ClS
solvent | dichlormethane | ClCCl | CH2Cl2
product | N-{4-[1-(6,11-dihydro-dibenzo [b,e]thiepin-11-yl)-piperidin-4-yl]-butyl}-3-(pyridin-3-yl)-acrylamide | C1=CC=CC=2SCC3=C(C(C21)N2CCC(CC2)CCCCNC(C=CC=2C=NC=CC2)=O)C=CC=C3 | C31H35N3OS
